US05306827
Preparation of 2-(p-Chlorophenyl)-3-[(trifluoromethyl)thio]pyrrole
A mixture of 5-(p-chlorophenyl)-4-[(trifluoromethyl)thio]pyrrole-2-carboxylic acid (0.5 g, 0.00155 mol) in ethanolamine (1.5 mL) is stirred at 160° C. for five hours, cooled to room temperature overnight with stirring, poured into water and extracted with ether. The combined organic extracts are washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a yellow syrup. Flash chromatography of the syrup using silica gel and a 1:4 ethyl acetate/hexanes solution gives the title product as an off-white solid (0.11 g, mp 59°-64° C.) which is identified by 1HNMR and 19FNMR spectral analyses.

reactant | 5-(p-chlorophenyl)-4-[(trifluoromethyl)thio]pyrrole-2-carboxylic acid | 0.00155 mol, 0.5 g | ClC1=CC=C(C=C1)C1=C(C=C(N1)C(=O)O)SC(F)(F)F | C12H7ClF3NO2S
reactant | water | O | H2O
solvent | ethanolamine | 1.5 mL | C(O)CN | C2H7NO
product | 2-(p-Chlorophenyl)-3-[(trifluoromethyl)thio]pyrrole | 0.11 g | ClC1=CC=C(C=C1)C=1NC=CC1SC(F)(F)F | C11H7ClF3NS
